US07705042B2
c) 4-Methy-5′-(4-methyl-piperazin-1-yl)-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl
To a solution of 5′-chloro-4-methyl-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl (as prepared in the previous step) (255 mg, 1.00 mmol) in DMF (10 mL) was added 1-methyl piperazine (110 μL, 1.00 mmol). The resulting mixture was heated at 125° C. overnight. The reaction mixture was allowed to cool to room temperature and partitioned between water and EtOAc. The EtOAc layer was separated, dried (Na2SO4) and concentrated in vacuo. The residue obtained was purified on silica (10-50% EtOAc:hexane) to obtain the title compound (204 mg, 64%). 1H-NMR (CDCl3; 400 MHz): δ 7.67 (d, 1H, J=2.52 Hz), 6.69 (d, 1H, J=2.52 Hz), 3.39 (m, 4H), 3.29 (m, 2H), 2.75 (m, 2H), 2.56 (m, 4H), 2.35 (s, 3H), 1.71 (m, 2H), 1.6-1.5 (m, 3H), 0.99 (d, 3H, J=6.3 Hz).

reactant | 5′-chloro-4-methyl-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | ClC=1C=C(C(=NC1)[N+](=O)[O-])N1CCC(CC1)C | C11H14ClN3O2
reactant | 1-methyl piperazine | 1.00 mmol, 110 μL | CN1CCNCC1 | C5H12N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Methy-5′-(4-methyl-piperazin-1-yl)-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | 204 mg, 64% | CC1CCN(CC1)C=1C(=NC=C(C1)N1CCN(CC1)C)[N+](=O)[O-] | C16H25N5O2
